US07598286B2
Step A: [3-(benzyloxy)phenyl](1H-indazol-3-yl)methanol
A solution of 3-bromoindazole (3.2 g, 16.4 mmol) in 50 mL Et2O was cooled to −78° C. and treated dropwise with n-butyllithium (6.6 mL, 16.4 mmol, 2.5M in hexanes). After the addition was complete, t-butyllithium (19 mL, 32.4 mmol, 1.7M in pentane) was added dropwise to the cooled solution. The mixture was stirred at −78° C. for 15 minutes after which 3-benzyloxyoxybenzaldehyde (3.8 g, 18 mmol) was added in one portion. The cooling bath was removed and the solution was allowed to warm to ambient temperature. The reaction was quenched with 1N HCl and extracted with EtOAc. The organic phase was washed with brine and dried (Na2SO4). Removal of the solvent afforded the crude product which was purified by flash chromatography (silica gel, hexane-ethyl acetate, 3:2) to give the title compound, 1.3 g off-white solid. mp 124-125° C.;

reactant | 3-bromoindazole | 16.4 mmol, 3.2 g | BrC1=NNC2=CC=CC=C12 | C7H5BrN2
reactant | n-butyllithium | 16.4 mmol, 2.5M, 6.6 mL | C(CCC)[Li]
reactant | t-butyllithium | 32.4 mmol, 1.7M, 19 mL | C(C)(C)(C)[Li]
reactant | 3-benzyloxyoxybenzaldehyde | 18 mmol, 3.8 g | C(C1=CC=CC=C1)OOC=1C=C(C=O)C=CC1 | C14H12O3
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | [3-(benzyloxy)phenyl](1H-indazol-3-yl)methanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(O)C1=NNC2=CC=CC=C12 | C21H18N2O2
